US04101391
Procedure A- 2,6-Di-t-butyl-4-methylphenol (13.2 grams, 0.06 mole) was dissolved in 75 milliliters of absolute methanol. Nitrogen gas was passed through the solution while sodium methoxide (3.24 grams, 0.06 mole) was added at ambient temperature. The reaction mixture was warmed to about 50° C an maintained there for about 15 minutes. Thereafter the methanol was evaporated to dryness to yield the desired sodium 2,6-di-t-butyl-4-methyl-phenoxide.

reactant | 2,6-Di-t-butyl-4-methylphenol | 0.06 mole, 13.2 grams | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | sodium methoxide | 0.06 mole, 3.24 grams | C[O-].[Na+]
solvent | methanol | 75 milliliters | CO | CH4O
product | sodium 2,6-di-t-butyl-4-methyl-phenoxide | C(C)(C)(C)C1=C([O-])C(=CC(=C1)C)C(C)(C)C.[Na+] | InChI=1S/C15H24O.Na/c1-10-8-11(14(2,3)4)13(16)12(9-10)15(5,6)7;/h8-9,16H,1-7H3;/q;+1/p-1
